US07915270B2
2-(2-(7-Phenylheptanoyl)oxazol-5-yl)benzonitrile
2-(2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)oxazol-5-yl)benzonitrile. The title compound was prepared from 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole (60 mg, 0.091 mmol) and 2-bromobenzonitrile following General Procedure A. Flash chromatography (2-5% EtOAc/hexanes) yielded the title compound as a clear oil (35 mg, 81%): 1H NMR (CDCl3, 600 MHz) δ 7.90 (s, 1H), 7.85 (d, 1H, J=7.8 Hz), 7.74 (d, 1H, J=7.8 Hz), 7.66 (t, 1H, J=7.8 Hz), 7.40 (t, 1H, J=7.8 Hz), 7.27-7.25 (m, 2H), 7.16-7.15 (m, 3H), 4.87 (t, 1H, J=6.0 Hz), 2.59 (t, 2H, J=7.8 Hz), 1.96-1.90 (m, 2H), 1.62-1.60 (m, 2H), 1.38-1.36 (m, 6H), 0.90 (s, 9H), 0.10 (s, 3H), 0.00 (s, 3H); 13C NMR (CDCl3, 150 MHz) δ 166.7, 148.06, 143.6, 135.0, 134.1, 131.7, 129.2, 129.1, 129.0, 127.3, 126.9, 126.4, 124.2, 119.2, 108.3, 69.5, 37.3, 36.8, 32.3, 30.0, 26.6, 26.6, 26.0, 19.1, −4.1, −4.2.

reactant | 2-(2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)oxazol-5-yl)benzonitrile | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)C1=C(C#N)C=CC=C1 | C29H38N2O2Si
reactant | 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole | 0.091 mmol, 60 mg | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)[Sn](CCCC)(CCCC)CCCC
reactant | 2-bromobenzonitrile | BrC1=C(C#N)C=CC=C1 | C7H4BrN
product | 2-(2-(7-Phenylheptanoyl)oxazol-5-yl)benzonitrile | 35 mg, 81% | C1(=CC=CC=C1)CCCCCCC(=O)C=1OC(=CN1)C1=C(C#N)C=CC=C1 | C23H22N2O2
